US07759337B2
Step 1: (S)-Tert-butyl 3-oxo-tetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate
A NaOEt solution, prepared from sodium hydride (60% dispersion in mineral oil) (0.990 g, 26 mmol) and 100 mL EtOH, diethyl carbonate (9.00 mL, 74 mmol) and (S)-4-N-BOC-2-hydroxymethyl-piperazine (2.17 g, 10 mmol) was heated at 80° C. The reaction was cooled to RT and filtered. The filtrate was concentrated to dryness to give an off-white amorphous solid.

reactant | NaOEt | CC[O-].[Na+]
reactant | sodium hydride | 26 mmol, 0.990 g | [H-].[Na+]
reactant | diethyl carbonate | 74 mmol, 9.00 mL | C(OCC)(OCC)=O | C5H10O3
reactant | (S)-4-N-BOC-2-hydroxymethyl-piperazine | 10 mmol, 2.17 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | EtOH | 100 mL | CCO | C2H6O
product | (S)-Tert-butyl 3-oxo-tetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate | O=C1OC[C@H]2N1CCN(C2)C(=O)OC(C)(C)C | C11H18N2O4
